US05470993
Step 4: Preparation of (N-t-butylamino)(dimethyl)(1,3-dimethyl-4,5,6,7-tetrahydroindenyl)silane
In an argon atmosphere drybox 0.77 g of ClSiMe2NHCMe3 (4.67 mmol) was added to 50 mL of THF. To this solution 0.75 g (4.67 mmol) of lithium 1,3-dimethyl-4,5,6,7-tetrahydroindenide was added. The solution was then brought to reflux for about 3 hours and then cooled to room temperature. Chromatographic analysis showed the reaction to be complete. The solvent was then removed under reduced pressure. The residue was extracted with pentane, filtered, and the solvent again removed under reduced pressure to give 1.21 g of product (94 percent yield).

reactant | ClSiMe2NHCMe3 | 4.67 mmol, 0.77 g | Cl[Si](C)(C)NC(C)(C)C | C6H16ClNSi
reactant | lithium 1,3-dimethyl-4,5,6,7-tetrahydroindenide | 4.67 mmol, 0.75 g | C[C-]1C=C(C=2CCCCC12)C.[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (N-t-butylamino)(dimethyl)(1,3-dimethyl-4,5,6,7-tetrahydroindenyl)silane | 1.21 g, 94 percent yield | C(C)(C)(C)N[Si](C=1C(C=2CCCCC2C1C)C)(C)C | C17H31NSi
